US06645968B2
N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dimethylpropyl]-4-phenylbenzamide
4-Phenylbenzamide, pivaldehyde, benzotriazole, and p-toluenesulfonic acid were processed as described in Example 53A to provide the desired product.

reactant | 4-Phenylbenzamide | C1(=CC=CC=C1)C1=CC=C(C(=O)N)C=C1 | C13H11NO
reactant | pivaldehyde | CC(C)(C)C=O | C5H10O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dimethylpropyl]-4-phenylbenzamide | N1(N=NC2=C1C=CC=C2)C(C(C)(C)C)NC(C2=CC=C(C=C2)C2=CC=CC=C2)=O | C24H24N4O
